US06784167B2
To a −78° C. solution of 2-(4-methoxyphenyl)thiophene (0.501 g, 2.64 mmol) in anh. CH2Cl2 (40 mL) was added a solution of BBr3 (1M in CH2Cl2, 6.6 mL, 6.6 mmol), keeping the temperature below −60° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The resulting mixture cooled to 0° C. and treated with a saturated NaHCO3 solution. After separation the aqueous layer was extracted with CH2Cl2 and EtOAc. The combined organic layers were washed with a saturated NaCl solution, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (20% EtOAc/hex) to give 4-(2-thienyl)phenol: TLC (20% EtOAc/hex) Rf 0.29.

reactant | 2-(4-methoxyphenyl)thiophene | 2.64 mmol, 0.501 g | COC1=CC=C(C=C1)C=1SC=CC1 | C11H10OS
reactant | BBr3 | 6.6 mmol, 1M, 6.6 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-thienyl)phenol | S1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OS
